US05942459
65.5 g of ethyl 3-(2-bromophenyl)-2-methylpropionate (243 mmole) and 20.5 g of potassium hydroxide (364 mmole) were dissolved in 250 ml of ethanol and heated under reflux for 6 hours, and 500 ml of water was added. After 50 ml of concentrated hydrochloric acid was added, and the product was then extracted with toluene, dried and concentrated to give 37.8 g of 3-(2-bromophenyl)-2-methylpropionic acid as a yellow oil (yield, 89%).

reactant | ethyl 3-(2-bromophenyl)-2-methylpropionate | 243 mmole, 65.5 g | BrC1=C(C=CC=C1)CC(C(=O)OCC)C | C12H15BrO2
reactant | potassium hydroxide | 364 mmole, 20.5 g | [OH-].[K+]
reactant | water | 500 ml | O | H2O
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(2-bromophenyl)-2-methylpropionic acid | 37.8 g | BrC1=C(C=CC=C1)CC(C(=O)O)C | C10H11BrO2
